US07115741B2
2-Iodophenylacetic acid (1.45 g) was added to a mixture of methanol (100 mL) and acetyl chloride (5 mL). After stirring at room temperature for 3 hours, the solvent was removed and the residue was dried under vacuum giving the desired 2-iodophenylacetic acid methyl ester. Yield=100%

reactant | 2-Iodophenylacetic acid | 1.45 g | IC1=C(C=CC=C1)CC(=O)O | C8H7IO2
reactant | acetyl chloride | 5 mL | C(C)(=O)Cl | C2H3ClO
solvent | methanol | 100 mL | CO | CH4O
product | 2-iodophenylacetic acid methyl ester | Yield=100% | COC(CC1=C(C=CC=C1)I)=O | C9H9IO2
